### PR TITLE
feat: add BitVec mul overflow support

### PR DESCRIPTION
**Pull request by tobiasgrosser**

### CODE REVIEW

File: tests/lean/run/bv_decide_rewriter.lean [hunk 1]
```diff
@@ -639,6 +663,10 @@ example (x y : BitVec 256) : x * y * z = z * y * x := by
 
 end NormalizeMul
 
+
+
+end
+
```
Comment (tobiasgrosser) [inline tests/lean/run/bv_decide_rewriter.lean:669]: These changes seem unrelated. Also, why do you add an extra `end`?

File: tests/lean/run/bv_decide_rewriter.lean [hunk 2]
```diff
@@ -85,6 +85,18 @@ example (x y : BitVec 16) : BitVec.uaddOverflow x y = (x.setWidth (17) + y.setWi
...
+    ((BitVec.signExtend (16 * 2) (BitVec.intMax 16)).slt (BitVec.signExtend (16 * 2) x * BitVec.signExtend (16 * 2) y) ||
+    (BitVec.signExtend (16 * 2) x * BitVec.signExtend (16 * 2) y).slt (BitVec.signExtend (16 * 2) (BitVec.intMin 16))) :=
+  by bv_normalize
+example (x y : BitVec w) : BitVec.umulOverflow x y = (0 < w && BitVec.twoPow (w * 2) w ≤ x.zeroExtend (w * 2) * y.zeroExtend (w * 2)) := by bv_normalize
+example (x y : BitVec w) : BitVec.smulOverflow x y =
+    (decide (w ≠ 0) &&
+    ((BitVec.signExtend (w * 2) (BitVec.intMax w)).slt (BitVec.signExtend (w * 2) x * BitVec.signExtend (w * 2) y) ||
+    (BitVec.signExtend (w * 2) x * BitVec.signExtend (w * 2) y).slt (BitVec.signExtend (w * 2) (BitVec.intMin w))))
+  := by bv_normalize
+
```
Comment (tobiasgrosser) [inline tests/lean/run/bv_decide_rewriter.lean:100]:
```suggestion
```

File: src/Init/Data/Nat/Lemmas.lean [hunk 3]
```diff
@@ -580,6 +580,7 @@ theorem mul_mod (a b n : Nat) : a * b % n = (a % n) * (b % n) % n := by
 @[simp] theorem mul_mod_mod (m n l : Nat) : (m * (n % l)) % l = (m * n) % l := by
   rw [mul_mod, mod_mod, ← mul_mod]
 
+
```
Comment (luisacicolini) [inline src/Init/Data/Nat/Lemmas.lean:583]:
```suggestion
```

File: tests/lean/run/bv_decide_rewriter.lean [hunk 4]
```diff
@@ -621,8 +631,21 @@ example {x y : BitVec 8} : (-x) <<< y = -(x <<< y) := by bv_normalize
...
+example {x : BitVec 8} : (x = -32#8) → (BitVec.smulOverflow x x) := by bv_decide
+
+example {x : BitVec 8} : (x = 0#8) → (¬ BitVec.smulOverflow x x) := by bv_decide
+
+example {x : BitVec 8} : (x ≥ -2#8) → (¬ BitVec.smulOverflow x x) := by bv_decide
+
+example {x : BitVec 8} : (x < 12#8) → (¬ BitVec.smulOverflow x x) := by bv_decide
+
+
```
Comment (luisacicolini) [inline tests/lean/run/bv_decide_rewriter.lean:648]:
```suggestion
```
